US07524840B2
5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-thione (IIa) was prepared by reacting 0.0284 moles of 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one (Ia) with Lawesson's reagent in a manner analogous to Example 38.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.0284 moles | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)F)=O | C16H12ClFN2O2
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-thione | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)F)=S | C16H12ClFN2OS
